US07034039B2
A solution of tert-butyl[6-hydroxy-2-isobutyl-4-(4-methylphenyl)-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate (0.44 g, 1 mmol), 2-iodoacetamide (0.37 g, 2 mmol) and 1,8-diazabicyclo[5.4.0]-7-undecene (0.30 ml, 2 mmol) in N,N-dimethylacetamide (10 ml) was stirred at 80° C. for 12 h. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give tert-butyl[6-(2-amino-2-oxoethoxy)-2-isobutyl-4-(4-methylphenyl)-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate (0.18 g, 36.7%) as crystals.

reactant | tert-butyl[6-hydroxy-2-isobutyl-4-(4-methylphenyl)-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 1 mmol, 0.44 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1C1=CC=C(C=C1)C)O)=O)CC(C)C)=O | C26H32N2O4
reactant | 2-iodoacetamide | 2 mmol, 0.37 g | ICC(=O)N | C2H4INO
reactant | 1,8-diazabicyclo[5.4.0]-7-undecene | 2 mmol, 0.30 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | water | O | H2O
solvent | N,N-dimethylacetamide | 10 ml | CN(C(C)=O)C | C4H9NO
product | tert-butyl[6-(2-amino-2-oxoethoxy)-2-isobutyl-4-(4-methylphenyl)-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 0.18 g, 36.7% | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1C1=CC=C(C=C1)C)OCC(=O)N)=O)CC(C)C)=O | C28H35N3O5
